US06207701B1
2-(3-fluorophenyl)- 1,3-dioxolane
A solution of 3-fluorobenzaldehyde (3.0 g, 24.2 mmol) in toluene (100 ml) was treated with ethylene glycol (1.8 g, 29.0 mmol) and p-toluenesulfonic acid (0.05 g, 0.24 mmol). The resulting solution was stirred at 80° C. for 3 hours. The reaction solution was partitioned between ethyl acetate and water. The organic layer was washed (brine), dried (Na2SO4), filtered, and concentrated under vacuum. The residue was purified on silica gel using 10% ethyl acetate/hexane to provide the title compound (3.4 g, 85%).

reactant | 3-fluorobenzaldehyde | 24.2 mmol, 3.0 g | FC=1C=C(C=O)C=CC1 | C7H5FO
reactant | ethylene glycol | 29.0 mmol, 1.8 g | C(CO)O | C2H6O2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid | 0.24 mmol, 0.05 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 2-(3-fluorophenyl)- 1,3-dioxolane | 3.4 g, 85% | FC=1C=C(C=CC1)C1OCCO1 | C9H9FO2
